US05292720
Next, 1,1,3,5-tetramethyl-3-isopropylindane (12.96 g) is placed in a 1 liter three-necked round bottom flask equipped with a reflux condenser, a stirrer and a dropping funnel. In accordance with the general procedures described in Organic Syntheses, Collective Vol. 5, pp. 49-50, by A. Rieche, H. Gross, and E. Hoft, edited by H.E. Baumgarten, John Wiley and Sons (New York, N.Y. 1973), methylene chloride (37.5 ml) is added to the flask. The solution is then cooled in an ice bath, and titanium tetrachloride (19.0 g) is added over a period of about 3 minutes. While the solution is stirred and cooled, α,α-dichloromethyl methyl ether (5.75 g) is added dropwise over a 25 minute period. After the addition is complete, the mixture is stirred for about 5 minutes in the ice bath, for about 30 minutes without cooling, and for about 15 minutes at about 35° C. The reaction mixture is then poured into a separatory funnel containing about 50 g of crushed ice and is shaken thoroughly. The organic layer is separated, and the aqueous solution is extracted with two 10 ml portions of methylene chloride. The combined organic solution is washed three times with 10 ml portions of water. A crystal of hydroquinone is added to the methylene chloride solution, which is then dried over anhydrous sodium sulfate. After evaporation of the solvent, the residue is distilled to yield as a crude product, 6-formyl-1,1,3,5-tetramethyl-3-isopropylindane. The 6 formyl-1,1,3,5 tetramethyl-3-isopropylindane is then further purified using standard fractional distillation techniques.

reactant | 1,1,3,5-tetramethyl-3-isopropylindane | 12.96 g | CC1(CC(C2=CC(=CC=C12)C)(C(C)C)C)C | C16H24
reactant | α,α-dichloromethyl methyl ether | 5.75 g | COC(Cl)Cl | C2H4Cl2O
catalyst | titanium tetrachloride | 19.0 g | [Ti](Cl)(Cl)(Cl)Cl
solvent | methylene chloride | 37.5 ml | C(Cl)Cl | CH2Cl2
product | 6-formyl-1,1,3,5-tetramethyl-3-isopropylindane | C(=O)C1=C(C=C2C(CC(C2=C1)(C)C)(C(C)C)C)C | C17H24O
